US07888349B2
A modification of the method described in Part E of Example 1 was used to treat tert-butyl 2-[(3-aminoquinolin-4-yl)amino]ethylcarbamate (15.65 g, 51.76 mmol) with triethylamine (10.82 mL, 77.64 mmol) followed by chloroacetyl chloride (4.5 mL, 57 mmol). The reaction was carried out in dichloromethane (60 mL). After the reaction mixture was filtered, the filtrate was washed with dilute aqueous sodium bicarbonate, dried over magnesium sulfate, and concentrated under reduced pressure to provide tert-butyl 2-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethylcarbamate as an amber-colored solid, which was combined with material from two other runs for use in the next step.

reactant | tert-butyl 2-[(3-aminoquinolin-4-yl)amino]ethylcarbamate | 51.76 mmol, 15.65 g | NC=1C=NC2=CC=CC=C2C1NCCNC(OC(C)(C)C)=O | C16H22N4O2
reactant | triethylamine | 77.64 mmol, 10.82 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 57 mmol, 4.5 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | tert-butyl 2-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethylcarbamate | ClCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCNC(OC(C)(C)C)=O | C18H21ClN4O2
